US06723744B2
Step B: Preparation of 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid
To a solution of 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester (17.5 mg, 0.039 mmol) in a mixture of methanol (0.5 mL) and water (0.5 mL) at room temperature was added potassium hydroxide (3M, 0.078 mL), and the resulting solution was stirred at room temperature for 20 hours. The reaction solution was diluted with 0.1M potassium hydroxide (10 mL) and washed with ethyl acetate (3 times 5 mL). The aqueous solution was acidified with hydrochloric acid and then extracted with ethyl acetate (3 times 10 mL). The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and concentrated to afford the title compound (13 mg) as a solid. 1H NMR (400 MHz, CD3OD) δ11.0 (s, 1H), 7.30-7.26 (m, 2H), 7.12 (s, 2H), 6.93 (t, 2H), 6.73 (d, 1H), 6.60 (d, 2H), 6.43-6.40 (dd, H), 5.97 (s, 1H), 2.23 (s, 3H), 2.13 (s, 3H). MS (APCI−) Calc:421. 1, Found: 420.1 (M−1).

reactant | 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid ethyl ester | 0.039 mmol, 17.5 mg | C(C)OC(=O)C=1NC2=CC(=C(C(=C2C1)C)OC1=CC(=C(C=C1)O)C(O)C1=CC=C(C=C1)F)C | C26H24FNO5
solvent | methanol | 0.5 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
solvent | potassium hydroxide | 0.1M, 10 mL | [OH-].[K+]
solvent | potassium hydroxide | 3M, 0.078 mL | [OH-].[K+]
product | 5-{3-[(4-Fluoro-phenyl)-hydroxy-methyl]-4-hydroxy-phenoxy}-4,6-dimethyl-1H-indole-2-carboxylic acid | 13 mg | FC1=CC=C(C=C1)C(C=1C=C(OC=2C(=C3C=C(NC3=CC2C)C(=O)O)C)C=CC1O)O | C24H20FNO5
